US05310920
A mixture comprising 7.0 g of 1-{2-(3,4-dichlorophenyl)vinyl}-2-nitroiminoimidazolidine, 7.5 g of 2-chloro-5-chloromethylpyridine, 6.4 g of potassium carbonate and 50 ml of dimethylsulfoxide was stirred at 60° C. for one hour. The reaction mixture was poured into water, extracted with ethyl acetate, washed with water, dried (with anhydrous MgS04) and concentrated o give an oily residue. This was purified by column chromatography (silica gel, eluent: ethyl acetate) to give 5.7 g of 1-(2-chloropyridin-5-ylmethyl)-2-nitroimino-3-(3,4-dichlorphenylvinyl) -imidazolidine.

reactant | 1-{2-(3,4-dichlorophenyl)vinyl}-2-nitroiminoimidazolidine | 7.0 g | ClC=1C=C(C=CC1Cl)C=CN1C(NCC1)=N[N+](=O)[O-] | C11H10Cl2N4O2
reactant | 2-chloro-5-chloromethylpyridine | 7.5 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | potassium carbonate | 6.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-(2-chloropyridin-5-ylmethyl)-2-nitroimino-3-(3,4-dichlorphenylvinyl) -imidazolidine | 5.7 g | ClC1=NC=C(C=C1)CN1C(N(CC1)C=CC1=CC(=C(C=C1)Cl)Cl)=N[N+](=O)[O-] | C17H14Cl3N5O2
